US04487927
To a suspension of 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (2.0 g) in water (20 ml) were added thiourea (0.683 g) and sodium acetate (1.84 g) at 40° C. with stirring. The reaction mixture was stirred at the same temperature for 1.5 hours. The resultant solution was adjusted to pH 2.8 with 10% hydrochloric acid and stirred under ice-cooling for 20 minutes. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure to give 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(1.9 g).

reactant | 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OC)=O | C16H16ClN3O8S
reactant | thiourea | 0.683 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.84 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.9 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OC | C17H17N5O7S2
